US04704464
Benzyloxycarbonyl-(L)-Phenylalanine Dimethylamide
20 mmoles (5.99 grams) of N-benzyloxycarbonyl-(L)-phenylalanine and 24 mmoles (2.76 grams) of N-hydroxysuccinimide are dissolved in 30 ml of chloroform and treated under ice cooling and stirring with 22 mmoles (4.34 grams) of dicyclohexylcarbodiimide dissolved in about 10 ml of chloroform. After 10 minutes stirring the mixture was cooled in an ice-salt bath to -10° C. and 20 mmoles (0.90 grams) of condensed, dry dimethylamine (boiling point +7° C.) added. Stirring was carried out for 24 hours, whereby the cooling bath was allowed to slowly melt. The precipitate formed was filtered off and the filtrate washed successively with each 20 ml 2N hydrochloric acid, saturated NaHCO3 solution and water. After drying over sodium sulfate and drawing off the solvent in a vacuum there was obtained an oily product. It was distilled at 240° C. air bath temperature in a high vacuum (10-4Torr). Colorless, very viscous oil.

reactant | N-benzyloxycarbonyl-(L)-phenylalanine | 20 mmoles, 5.99 grams | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | N-hydroxysuccinimide | 24 mmoles, 2.76 grams | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 22 mmoles, 4.34 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylamine | CNC | C2H7N
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | about 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Benzyloxycarbonyl-(L)-Phenylalanine Dimethylamide | CN(C([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)C | C19H22N2O3
